US07488811B2
3 Å molecular sieves (22.5 g) and a solution of 2-thiazole-carboxaldehyde (14.5 g, 128 mmol) in ethanol (90 ml) were sequentially added to a solution of 2-(2-aminoethylamino)ethanol (13.35 g, 128 mmol) in anhydrous ethanol. The reaction mixture was stirred for 4 hours, filtered through a pad of Celite while washing with ethanol (100 ml) and placed in a high-pressure flask. After adding acetic acid (3 ml) and Pd (10% on C, 2 g), the solution was introduced into Parr apparatus and, after several hydrogenation cycles, was stirred for 2 days under a hydrogen atmosphere at 40 psi. The reaction mixture was filtered through a pad of Celite, evaporated under vacuum and purified by flash chromatography (silica, 80/20/10 CH2Cl2/MeOH/NH3 eluent) to, give 2-[2-[(2-thiazolylmethyl)amino]ethylamino]ethanol (15.4 g, 60% yield) as a brown oil.

reactant | 2-thiazole-carboxaldehyde | 128 mmol, 14.5 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | 2-(2-aminoethylamino)ethanol | 128 mmol, 13.35 g | NCCNCCO | C4H12N2O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2-[2-[(2-thiazolylmethyl)amino]ethylamino]ethanol | 15.4 g, 60% yield | S1C(=NC=C1)CNCCNCCO | C8H15N3OS
